US07741322B2
N-[2-(6-Methoxy-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)ethyl]-1-(4-methoxyphenyl)cyclopropanecarboxamide
To a solution of 3-(2-aminoethyl)-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one hydrochloride (70 mg, 0.20 mmol) in 3 mL of dimethylformamide was added 1-(4-methoxyphenyl)cyclopropanecarboxylic acid (0.39 mg, 0.20 mmol), triethylamine (0.085 mL, 0.61 mmol), 1-hydroxybenzotriazole hydrate (37 mg, 0.24 mmol), and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (47 mg, 0.24 mmol). After three hours, the mixture was partitioned between EtOAc and water, and the organic layer was washed with saturated NaHCO3 solution and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was triturated with ether-hexane solution to provide the titled product. HRMS (ES) exact mass calculated for C30H30N2O4 (M+H+): 483.2258. Found 483.2279.

reactant | 3-(2-aminoethyl)-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one hydrochloride | 0.20 mmol, 70 mg | Cl.NCCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)C
reactant | 1-(4-methoxyphenyl)cyclopropanecarboxylic acid | 0.20 mmol, 0.39 mg | COC1=CC=C(C=C1)C1(CC1)C(=O)O | C11H12O3
reactant | triethylamine | 0.61 mmol, 0.085 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole hydrate | 0.24 mmol, 37 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.24 mmol, 47 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-[2-(6-Methoxy-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)ethyl]-1-(4-methoxyphenyl)cyclopropanecarboxamide | COC=1C=C2C(=C(N(C(C2=CC1)=O)C)CCNC(=O)C1(CC1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C30H30N2O4
